US05208228
17-Ethyl-1-hydroxy-12-{2'-[4"-(ethoxycarbonyl)amino-3"-propyloxycyclohexyl]-1'-methylvinyl}-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone
To a solution of 17-ethyl-1-hydroxy-12-[2'-(4"-amino-3"-propyloxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone (40 mg) in methylene chloride (2 ml) is added triethylamine (10 μl), followed by ethyl chloroformate (15 μl) at 0° C. with stirring. The reaction mixture is warmed to room temperature and the reaction progress is followed by tlc analysis. The solution is quenched with a drop of methanol and purified by preparative tlc on silica to give the title compound.

reactant | 17-ethyl-1-hydroxy-12-[2'-(4"-amino-3"-propyloxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone | 40 mg | C(C)C1C(CCC(C(OC(C2CCCCN2C(C(C2(C(CC(C(C(CC(CC(=C1)C)C)OC)O2)OC)C)O)=O)=O)=O)C(=CC2CC(C(CC2)N)OCCC)C)C)=O | C45H74N2O10
reactant | triethylamine | 10 μl | C(C)N(CC)CC | C6H15N
reactant | ethyl chloroformate | 15 μl | ClC(=O)OCC | C3H5ClO2
solvent | methylene chloride | 2 ml | C(Cl)Cl | CH2Cl2
product | 17-Ethyl-1-hydroxy-12-{2'-[4"-(ethoxycarbonyl)amino-3"-propyloxycyclohexyl]-1'-methylvinyl}-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone | C(C)C1C(CCC(C(OC(C2CCCCN2C(C(C2(C(CC(C(C(CC(CC(=C1)C)C)OC)O2)OC)C)O)=O)=O)=O)C(=CC2CC(C(CC2)NC(=O)OCC)OCCC)C)C)=O | C48H78N2O12
